US06727264B1
2-METHYL-N-[3-(1-{(3S)-3-PHENYL-3-[(PROPYLSULFONYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure Q1 and Scheme AC using 1-propanesulfonyl chloride and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 486.2 (M+H)+.

reactant | 1-propanesulfonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | 2-METHYL-N-[3-(1-{(3S)-3-PHENYL-3-[(PROPYLSULFONYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC[C@H](NS(=O)(=O)CCC)C1=CC=CC=C1)C | C27H39N3O3S
